US07732456B2
(6) Preparation of 4-[(E)-2-(4-hydroxyphenyl)vinyl]-1-{4-[2-(1-pyrrolidinyl)-ethoxy]phenyl}-1H-pyridin-2-one
Trifluoroacetic acid (2 mL) was added to 4-((E)-2-{4-[(2-methyl-2-propyl)oxy]phenyl}vinyl)-1-{4-[2-(1-pyrrolidinyl)ethoxy]phenyl}-1H-pyridin-2-one (120 mg, 0.26 mmol) and stirred at room temperature for 30 minutes. After concentrating the reaction liquid under reduced pressure, chloroform was added to the reaction liquid which then was washed with aqueous sodium hydrogencarbonate solution and dried over anhydrous sodium sulfate. Concentrating the solvent under reduced pressure, the title compound (97 mg, 92%) was obtained as a white solid.

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-((E)-2-{4-[(2-methyl-2-propyl)oxy]phenyl}vinyl)-1-{4-[2-(1-pyrrolidinyl)ethoxy]phenyl}-1H-pyridin-2-one | 0.26 mmol, 120 mg | CC(C)(C)OC1=CC=C(C=C1)/C=C/C1=CC(N(C=C1)C1=CC=C(C=C1)OCCN1CCCC1)=O | C29H34N2O3
product | 4-[(E)-2-(4-hydroxyphenyl)vinyl]-1-{4-[2-(1-pyrrolidinyl)-ethoxy]phenyl}-1H-pyridin-2-one | 97 mg, 92% | OC1=CC=C(C=C1)/C=C/C1=CC(N(C=C1)C1=CC=C(C=C1)OCCN1CCCC1)=O | C25H26N2O3
